US20010000513A1
Step (a) Preparation of 4-(3′-Fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester
In a manner similar to Example 12, Step (b), (3-fluoro-phenyl)boronic acid (0.7698 g, 0.005502 mol) was allowed to react with 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester (1.356 g, 0.00500 mol) in the presence of tetrakis(triphenylphosphine)palladium(0) (0.173 g, 0.000150 mol) and 2.0 M aqueous sodium carbonate (5.0 mL, 0.010 mol) in toluene (10 mL) to give, after chromatography on silica gel (270 g, 230-400 mesh), eluting with chloroform (18×125 mL), 1.221 g of 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a white solid; mp 99-101° C.

reactant | (3-fluoro-phenyl)boronic acid | 0.005502 mol, 0.7698 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester | 0.00500 mol, 1.356 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | sodium carbonate | 0.010 mol, 2.0 M, 5.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.000150 mol, 0.173 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3′-Fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | FC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
